US08748634B2
The products from Step 4 (1-(4-trifluoromethylphenyl)-2-(dimethylhydroxymethyl)-4-hydroxy-6,7-dimethoxynaphthalene and 1-(3,4-dimethoxyphenyl-2-(dimethylhydroxymethyl)-4-hydroxy-6-trifluoromethylnaphthalene, 51.7 grams) were placed in a reaction flask equipped with a Dean-Stark trap and 775 mL of toluene was added. The reaction mixture was stirred under a nitrogen atmosphere and dodecylbenzene sulfonic acid (8.3 grams) was added. The reaction mixture was heated to reflux for 5 hours. Upon cooling to room temperature the reaction mixture was concentrated by rotary evaporation. The resulting brown solid was slurried in 300 mL of 15% ethyl acetate/85% hexanes. The solid was collected by vacuum filtration yielding 35.1 grams of 2,3-dimethoxy-7,7-dimethyl-9-trifluoromethyl-7H-benzo[C]fluoren-5-ol. This material was not purified further but was used directly in the next step.

reactant | 1-(4-trifluoromethylphenyl)-2-(dimethylhydroxymethyl)-4-hydroxy-6,7-dimethoxynaphthalene | FC(C1=CC=C(C=C1)C1=C(C=C(C2=CC(=C(C=C12)OC)OC)O)C(O)(C)C)(F)F | C22H21F3O4
reactant | 3,4-dimethoxyphenyl-2-(dimethylhydroxymethyl)-4-hydroxy-6-trifluoromethylnaphthalene | COC=1C=C(C=CC1OC)C1=C(C=C(C2=CC(=CC=C12)C(F)(F)F)O)C(O)(C)C | C22H21F3O4
reactant | dodecylbenzene sulfonic acid | 8.3 grams | C(CCCCCCCCCCC)C1=C(C=CC=C1)S(=O)(=O)O | C18H30O3S
solvent | toluene | 775 mL | C1(=CC=CC=C1)C | C7H8
product | 2,3-dimethoxy-7,7-dimethyl-9-trifluoromethyl-7H-benzo[C]fluoren-5-ol | 35.1 grams | COC1=CC2=C(C(=CC=3C(C=4C=C(C=CC4C23)C(F)(F)F)(C)C)O)C=C1OC | C22H19F3O3
